US04677155
10 g (0.039 mol) of 2-chloromethylanthraquinone (prepared in accordance with the instructions of G. Izoret, Ann. Chim. 7, 151 (1962)) in 200 ml of ethylene glycol are refluxed for 3 hours, with stirring and with exclusion of moisture. The product which has crystallised out on cooling is washed with water and recrystallised from ethanol. 8.9 g (80.92% of theory) of 2-(2-hydroxyethoxymethyl)-anthraquinone are obtained. 8 g (0.03 mol) of 2-(2-hydroxyethoxymethyl)-anthraquinone are dissolved in 180 ml of tetrahydrofuran, 4.34 ml (0.05 mol) of triethylamine are added and the mixture is cooled to 5° C. 3 ml (0.03 mol) of methacryloyl chloride in 10 ml of tetrahydrofuran are then added dropwise, with stirring and under an inert gas, such that the temperature does not exceed 5° C. When the dropwise addition has ended, stirring is continued at room temperature for 5 hours. The solvent is then stripped off on a rotary evaporator and the solid product is washed several times with 1% citric acid and water and dried in vacuo. 7.76 g of (2-anthraquinonyl)-7-oxa-4-oxa-3-oxo-2-methyloct-1-ene are obtained, and 7.48 g (71.17% of theory) after recrystallisation from ethanol.

reactant | 2-chloromethylanthraquinone | 0.039 mol, 10 g | ClCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H9ClO2
reactant | ethylene glycol | 200 ml | C(CO)O | C2H6O2
product | 2-(2-hydroxyethoxymethyl)-anthraquinone | 8.9 g, 80.92% | OCCOCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C17H14O4
